US07985769B2
To a mixture of methyl-3-amino-5-phenylthiophene-2-carboxylate (200 mg, 0.855 mmol) in anhydrous N,N-dimethylformamide (4.6 ml) were added 4.2 ml (8.55 mmol) of 2M iodomethane solution in t-buthylmethylether. The mixture was stirred at 60 C for 18 hours, concentrated and purified using biotage technics (silica gel, hexane to hexane:ethyl acetate; 95:5 containing few drops of triethylamine) to give 68 mg (32% yield) of 3-methylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester. 1H NMR (CDCl3, 400 MHz) 7.65-7.62 (m, 2H), 7.42-7.36 (m, 3H), 6.86 (broad s, 1H), 3.83 (s, 3H), 3.04 (d, 3H)

reactant | methyl-3-amino-5-phenylthiophene-2-carboxylate | 0.855 mmol, 200 mg | COC(=O)C=1SC(=CC1N)C1=CC=CC=C1 | C12H11NO2S
reactant | iodomethane | 8.55 mmol, 2M, 4.2 ml | IC | CH3I
solvent | N,N-dimethylformamide | 4.6 ml | CN(C=O)C | C3H7NO
product | 3-methylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 68 mg, 32% yield | COC(=O)C=1SC(=CC1NC)C1=CC=CC=C1 | C13H13NO2S
